US05672597
N-[3-[3-(piperidinomethyl)phenoxy]propyl]2-[2-(2-thienylacetamino)ethylsulfinyl]acetamide
There was dissolved 1.0 g (0.002 mol) of N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(2-thienylacetamino)ethylthio]acetamide in 30 ml, of acetic acid and added 0.24 ml, (0.0022 mol) of 30% aqueous solution of hydrogen peroxide under cooling with ice, and the mixture was stirred for 12 hours at room temperature. The solvent was removed under reduced pressure, and then the residue was purified by silica gel column chromatography (chloroform:ethanol=5:1) to give 0.72 g of the titled compound as crystals.

reactant | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(2-thienylacetamino)ethylthio]acetamide | 0.002 mol, 1.0 g | N1(CCCCC1)CC=1C=C(OCCCNC(CSCCN(C(=O)C)C=2SC=CC2)=O)C=CC1 | C25H35N3O3S2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[3-[3-(piperidinomethyl)phenoxy]propyl]2-[2-(2-thienylacetamino)ethylsulfinyl]acetamide | 0.72 g | N1(CCCCC1)CC=1C=C(OCCCNC(CS(=O)CCN(C(=O)C)C=2SC=CC2)=O)C=CC1 | C25H35N3O4S2
